US07488494B2
Adam's catalyst (0.045 g) was added to a solution of 6-chloro-4′,7-diacetoxyisoflavone (0.25 g, 0.7 mmol) in ethyl acetate (30 ml) and the mixture was stirred at room temperature under a hydrogen atmosphere for 24 h. The catalyst was removed by filtration through Celite and the resulting filtrate was evaporated in vacuo. The residue was recrystallised from ethanol to yield 6-chloro-4′,7-diacetoxyisoflavan4-one (0.15 g, 60%) as colourless plates. 1H NMR (CDCl3): δ 2.29 (s, 3H, OCOCH3), 2.37 (s, 3H, OCOCH3), 3.98 (dd, 1H, J 6.0 Hz, 7.5 Hz, H3), 4.68 (m, 2H, H2), 6.87 (s, 1H, H8), 7.07 (d, 2H, J 8.6 Hz, ArH), 7.27 (d, 2H, J 8.6 Hz, ArH), 8.01 (s, 1H, H5).

reactant | 6-chloro-4′,7-diacetoxyisoflavone | 0.7 mmol, 0.25 g | ClC=1C=C2C(C(=COC2=CC1OC(C)=O)C1=CC=C(C=C1)OC(C)=O)=O | C19H13ClO6
catalyst | Adam's catalyst | 0.045 g | O=[Pt]=O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 6-chloro-4′,7-diacetoxyisoflavan4-one | 0.15 g, 60% | ClC=1C=C2C(C(COC2=CC1OC(C)=O)C1=CC=C(C=C1)OC(C)=O)=O | C19H15ClO6
